US07678820B2
A solution of 3,4-diaminobenzonitrile (400 mg) in ethyl orthoformate (6.48 ml) was added AcOH (238 mg), followed by stirring at 80° C. for 2 hours. The reaction solution was cooled to room temperature, and partitioned between EtOAc and a 1M aqueous NaOH solution. The organic layer was washed with saturated brine, dried over anhydrous Na2SO3, and then collected by filtration, and the filtrate was concentrated, and purified by silica gel chromatography to obtain 2-ethoxy-1H-benzimidazole-6-carbonitrile (164 mg) as colorless powders.

reactant | 3,4-diaminobenzonitrile | 400 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | AcOH | 238 mg | CC(=O)O | C2H4O2
reactant | ethyl orthoformate | 6.48 ml | C(OCC)([O-])[O-]
product | 2-ethoxy-1H-benzimidazole-6-carbonitrile | 164 mg | C(C)OC1=NC2=C(N1)C=C(C=C2)C#N | C10H9N3O
